US09388173B2
Step 2: tert-butyl (3-(oxiran-2-ylmethoxy)phenyl)carbamate
To a solution of tert-butyl (3-hydroxyphenyl)carbamate (1 g, 4.79 mmol) in DMF (15 mL) was added NaH (0.126 g, 5.26 mmol) at 0° C. After stirring for 30 min, 2-(bromomethyl)oxirane (0.716 g, 5.26 mmol) was added and the mixture stirred at 0° C. for 1 h before quenching with the addition of MeOH. After evaporation of this mixture, the resulting residue was dissolved in ethyl acetate and washed with water, dried and with sodium sulfate and concentrated with the resulting crude product used for next step without further purification.

reactant | tert-butyl (3-hydroxyphenyl)carbamate | 4.79 mmol, 1 g | OC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H15NO3
reactant | NaH | 5.26 mmol, 0.126 g | [H-].[Na+]
reactant | 2-(bromomethyl)oxirane | 5.26 mmol, 0.716 g | BrCC1OC1 | C3H5BrO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-butyl (3-(oxiran-2-ylmethoxy)phenyl)carbamate | O1C(C1)COC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C14H19NO4
